US04855497
An ethanol solution of the same free base is treated with phosphoric acid, yielding a colorless needle (diphosphoric acid). m.p. 212.0° C.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | ethanol | C(C)O | C2H6O
product | diphosphoric acid | P(=O)(O)(O)OP(=O)(O)O | H4O7P2
